US04683306
In a four neck flask equipped with reflux condenser, stirrer, thermometer and calcium drying tube, 1.06 g (0.005 mole) 3,4-dihydro-2-methyl-3-oxo-2H-1,2-benzothiazine 1,1-dioxide and 2.6 g (0.02 mole) methylmagnesiumcarbonate in 20 ml N,N-dimethylformamide were added. The mixture was stirred at 90°-100° C. for 3 hours. The resulting solution was poured quickly into a mixture of 30 ml conc-hydrochloric acid, 70 g ice chips and 200 ml diethylether. After stirring the mixture for 10 minutes, the separated diethylether layer was evaporated in vacuo to obtain 1.25 g of 3,4-dihydro-2-methyl-3-oxo-2H-1,2-benzothiazine-4-carboxylic acid 1,1-dioxide. The obtained compound was dissolved in 20 ml benzene and to the solution, 1.3 ml thionyl chloride and 0.4 ml N,N-dimethylformamide were added.

reactant | 3,4-dihydro-2-methyl-3-oxo-2H-1,2-benzothiazine 1,1-dioxide | 0.005 mole, 1.06 g | CN1S(C2=C(CC1=O)C=CC=C2)(=O)=O | C9H9NO3S
reactant | methylmagnesiumcarbonate | 0.02 mole, 2.6 g | C([O-])([O-])=O.C[Mg+2]
reactant | hydrochloric acid | Cl | ClH
reactant | diethylether | 200 ml | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3,4-dihydro-2-methyl-3-oxo-2H-1,2-benzothiazine-4-carboxylic acid 1,1-dioxide | 1.25 g, Yield: 51.2% | CN1S(C2=C(C(C1=O)C(=O)O)C=CC=C2)(=O)=O | C10H9NO5S
